US08039463B2
DIEA (527 mg, 4.07 mmol), HOBt (322 mg, 2.45 mmol), EDCI.HCl (302 m, 1.5 mmol) and piperazine-1-carboxylic acid tert-butyl ester (456 mg, 2.45 mmol) were added to a stirred solution of 3-cyano-benzoicacid (300 mg, 2.03 mmol) in DMF (3 mL) and the resulting mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with water and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with brine solution, dried over Na2SO4, and concentrated under reduced pressure to afford 590 mg (92%) of 4-(3-cyano-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | DIEA | 4.07 mmol, 527 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 2.45 mmol, 322 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 1.5 mmol | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.45 mmol, 456 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3-cyano-benzoicacid | 2.03 mmol, 300 mg | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-cyano-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 590 mg, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C#N)=O | C17H21N3O3
